US07652049B2
In a microwave tube were placed (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one (41.6 mg, 0.0679 mmol), (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (18 mg, 0.085 mmol), DME (305 μL), EtOH (100 μL), and 1M aqueous Na2CO3 (140 μL, 0.140 mmol). The mixture was degassed with N2. Next, Pd(PPh3)4 (4 mg, 3.4×10−3 mmol) was added and the mixture was degassed again with N2. The tube was sealed and irradiated in a microwave for 10 minutes at 150° C. and 200 W. The reaction was then cooled to room temperature, diluted with EtOAc (40 mL), and washed with water and brine (15 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (2 to 15% EtOAc/hexanes) afforded (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethoxy)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. Rf=0.24 (15% EtOAc/hexanes). LCMS=654.3 (M+1)+. 1H NMR (CDCl3, 500 MHz, rotamers present) δ 7.85 (s, 1H), 7.69 (s, 2H), 7.21-7.30 (m, 4H), 6.95-7.00 (m, 1H), 6.65-6.68 (m, 1H), 5.59 (d, J=8.0 Hz), 5.41 (d, J=8.0 Hz), 4.74-4.81 (m, 1H), 3.75-4.09 (m, 5H), 3.19 (m, 1H), 1.16-1.27 (m, 6H), 0.51 (d, J=6.7 Hz), 0.36 (d, J=6.6 Hz).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-iodo-5-(trifluoromethoxy)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.0679 mmol, 41.6 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)I)C)(F)F | C20H13F9INO3
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 0.085 mmol, 18 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | DME | 305 μL | COCCOC | C4H10O2
reactant | Na2CO3 | 0.140 mmol, 1M, 140 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 3.4×10−3 mmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOH | 100 μL | CCO | C2H6O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4′-fluoro-5′-isopropyl-2′-methoxy-4-(trifluoromethoxy)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)OC(F)(F)F)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C30H25F10NO4
